US08404679B2
N-[(3RS,4SR)-4-(4-Chloro-phenyl)-1-(4-cyano-benzoyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
In analogy to the procedure described for the synthesis of example 88, the title compound N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(4-cyano-benzoyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide was prepared from N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using 4-cyanobenzoyl chloride instead of 4-fluorobenzoyl chloride and was obtained as a light brown oil. MS m/e: 542.1 [M+H]+.

reactant | N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CNC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C20H20ClF3N2O2
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(4-cyano-benzoyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CN(C1)C(C1=CC=C(C=C1)C#N)=O)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C28H23ClF3N3O3
